US05530015
A mixture of 32 g of 4-bromo-2-isopropylphenol, 25.7 g of benzyl bromide, 23 g of potassium carbonate and 300 ml of N,N-dimethylformamide was stirred at room temperature for 24 hours. The reaction solution was poured into ice-water, acidified by adding 10% hydrochloric acid and then extracted with 500 ml of diethyl ether. There, the ether layer was washed with a saturated saline solution, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to give 30 g of 4-bromo-2-isopropylphenyl benzyl ether (yield, 65%).

reactant | 4-bromo-2-isopropylphenol | 32 g | BrC1=CC(=C(C=C1)O)C(C)C | C9H11BrO
reactant | benzyl bromide | 25.7 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 23 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | 4-bromo-2-isopropylphenyl benzyl ether | 30 g, 65% | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)Br)C(C)C | C16H17BrO
